US07576086B2
A mixture of N-benzyl piperazine dihydrochloride (1.5 g, 7.05 mmol), 2-bromo-1-(5-chloro-6-methoxynaphthalen-2-yl) propan-1-one (2.8 g, 8.5 mmol) and triethyl-amine (2.38 g, 23.5 mmol) in benzene (150 ml) was treated according to the general preparation 2 to obtain 2.14 g of N1-benzyl-N4-[1-(5-chloro-6-methoxy-2-naphthoyl)ethyl] piperazine dihydrochloride, yield 60%, mp 252-253° C.).

reactant | N-benzyl piperazine dihydrochloride | 7.05 mmol, 1.5 g | Cl.Cl.C(C1=CC=CC=C1)N1CCNCC1
reactant | 2-bromo-1-(5-chloro-6-methoxynaphthalen-2-yl) propan-1-one | 8.5 mmol, 2.8 g | BrC(C(=O)C1=CC2=CC=C(C(=C2C=C1)Cl)OC)C | C14H12BrClO2
reactant | triethyl-amine | 23.5 mmol, 2.38 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | N1-benzyl-N4-[1-(5-chloro-6-methoxy-2-naphthoyl)ethyl] piperazine dihydrochloride | 2.14 g, yield 60% | Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)C(C)C(=O)C1=CC2=CC=C(C(=C2C=C1)Cl)OC | InChI=1S/C25H27ClN2O2.2ClH/c1-18(28-14-12-27(13-15-28)17-19-6-4-3-5-7-19)25(29)21-8-10-22-20(16-21)9-11-23(30-2)24(22)26;;/h3-11,16,18H,12-15,17H2,1-2H3;2*1H
